US07714130B2
6-Methylquinoxaline
A solution of 3,4-diaminotoluene (Aldrich, 100 g, 0.82 mol) in 600 mL of hot water (temp. 70-75° C.) was added rapidly to a 60° C. slurry of glyoxal-sodium bisulfite adduct (Aldrich, 239.5 g, 0.9 mol, 1.1 eq) in 400 mL of water. The resulting dark-brown clear solution was heated at 60° C. for 1 hr, then 5 g (0.02 mol) of additional glyoxal adduct was added. The mixture was allowed to cool to r.t. and filtered through a paper filter. The filtrate was neutralized with 5 M aq. NaOH to pH 7.5-7.8 and then extracted with ether (4×400 mL). The extract was dried over Na2SO4 and concentrated on a rotary evaporator to afford 92 g of brown oil which was distilled in vacuum (bp. 100-102° C. at 10 mm Hg; Cavagnol, J. C.; Wiselogle, F. Y. J. Am. Chem. Soc. 1947, 69, 795; 86° C. at 1 mm Hg). Yield 89 g (75%) as a pale-yellow oil.

reactant | 3,4-diaminotoluene | 0.82 mol, 100 g | NC=1C=C(C=CC1N)C | C7H10N2
reactant | glyoxal-sodium bisulfite adduct | 0.9 mol, 239.5 g, 1.1 eq | C(C(O)S(=O)(=O)O)(O)S(=O)(=O)O | C2H6O8S2
reactant | glyoxal | 0.02 mol, 5 g | C(=O)C=O | C2H2O2
solvent | water | 600 mL | O | H2O
solvent | water | 400 mL | O | H2O
product | 6-Methylquinoxaline | 92 g | CC=1C=C2N=CC=NC2=CC1 | C9H8N2
